US06969716B2
5-(3-Bromo-4-fluorophenyl)-3-(2,4-difluorophenyl)-[1,2,4]triazine was coupled to 4-fluoro-2-(4,4,5,5-tetramethyl-[1,3,2] dioxaborolan-2-yl)-benzonitrile by the method of Example 12 to give 5,2′-difluoro-5′-[3-(2,4-difluorophenyl)-[1,2,4]triazin-5-yl]biphenyl-2-carbonitrile as a yellow solid: δH (400 MHz, CDCl3) 6.99-7.11 (2H, m), 7.27-7.34 (2H, m), 7.47 (1H, t, J 9.4 Hz), 7.87 (1H, dd, J 5.5, 8.6 Hz), 8.30-8.41 (3H, m), 9.66 (1H, s); m/z (ES+) 407.

reactant | 5-(3-Bromo-4-fluorophenyl)-3-(2,4-difluorophenyl)-[1,2,4]triazine | BrC=1C=C(C=CC1F)C=1N=C(N=NC1)C1=C(C=C(C=C1)F)F | C15H7BrF3N3
reactant | 4-fluoro-2-(4,4,5,5-tetramethyl-[1,3,2] dioxaborolan-2-yl)-benzonitrile | FC1=CC(=C(C#N)C=C1)B1OC(C(O1)(C)C)(C)C | C13H15BFNO2
product | 5,2′-difluoro-5′-[3-(2,4-difluorophenyl)-[1,2,4]triazin-5-yl]biphenyl-2-carbonitrile | FC1=CC=C(C(=C1)C1=C(C=CC(=C1)C=1N=C(N=NC1)C1=C(C=C(C=C1)F)F)F)C#N | C22H10F4N4
